US05750469
3-Azido-3-phenyl-2-(4,6-dimethoxypyrimidin-2-yl)oxybutyric acid
4.1 g (11 mmol) of methyl 3-azido-3-phenyl-2-(4,6-dimethoxypyrimidin-2-yl)oxybutyrate (Ex. 2) are dissolved in 100 ml of methanol/THF (1:1) and treated with 13.2 g (33 mmol) of 10% strength sodium hydroxide solution. The mixture is stirred for 6 hours at 50° C. and for 12 hours at room temperature and concentrated on a rotary evaporator. The residue is taken up in 100 ml of water and acidified to pH 2 using 10% strength hydrochloric acid. The resulting precipitate is filtered off with suction, washed with diethyl ether and dried.

reactant | methyl 3-azido-3-phenyl-2-(4,6-dimethoxypyrimidin-2-yl)oxybutyrate | 11 mmol, 4.1 g | N(=[N+]=[N-])C(C(C(=O)OC)OC1=NC(=CC(=N1)OC)OC)(C)C1=CC=CC=C1 | C17H19N5O5
reactant | sodium hydroxide | [OH-].[Na+]
solvent | methanol THF | 100 ml | CO.C1CCOC1
product | 3-Azido-3-phenyl-2-(4,6-dimethoxypyrimidin-2-yl)oxybutyric acid | N(=[N+]=[N-])C(C(C(=O)O)OC1=NC(=CC(=N1)OC)OC)(C)C1=CC=CC=C1 | C16H17N5O5
